US04640913
3-(4-Tetradecylphenoxy)-1,2-propanediol
An about 43.5 g portion of 4-tetradecyl phenol was added in portions to a suspension of about 10.8 g of prewashed sodium hydride in dimethylformamide. The mixture was refluxed about 11/2 hours, allowed to cool and about 37.8 g of 2,2-dimethyl-4-[[methylsulfonyl)oxy]methyl]-1,3-dioxolane was added. This mixture was heated to about 80° C. for about 24 hours; diluted with hexane and ether, washed with water and brine and evaporated. The residue was heated on a steam bath with about 500 ml of methanol and about 80 ml of dilute hydrochloric acid for one hour, cooled, partially evaporated, the solid collected and recrystallized from methanol, giving about 38 g of the desired title compound, mp 81.5°-83.5° C.

reactant | 4-tetradecyl phenol | C(CCCCCCCCCCCCC)C1=CC=C(C=C1)O | C20H34O
reactant | sodium hydride | about 10.8 g | [H-].[Na+]
reactant | 1,3-dioxolane | O1COCC1 | C3H6O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | 3-(4-Tetradecylphenoxy)-1,2-propanediol | about 38 g | C(CCCCCCCCCCCCC)C1=CC=C(OCC(CO)O)C=C1 | C23H40O3
